US04728645
5-(p-Ethoxycarbonylphenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine hydrochloride
A solution of 2.0 g of 5-(p-ethoxycarbonylphenyl)imidazo[1,5-a]pyridine in 120 ml of anhydrous ethanol containing 30 ml of concentrated hydrochloric acid, is hydrogenated with 1.0 g of 10% palladium on charcoal at 40 psi hydrogen and 60° for 4 h. The catalyst is filtered and the solvent is evaporated to yield a solid which is recrystallized from isopropanol and ether to provide the title compound, m.p. 164°-166°.

reactant | 5-(p-ethoxycarbonylphenyl)imidazo[1,5-a]pyridine | 2.0 g | C(C)OC(=O)C1=CC=C(C=C1)C1=CC=CC=2N1C=NC2 | C16H14N2O2
reactant | hydrochloric acid | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 120 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 1.0 g | [Pd] | Pd
product | 5-(p-Ethoxycarbonylphenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine hydrochloride | Cl.C(C)OC(=O)C1=CC=C(C=C1)C1CCCC=2N1C=NC2 | InChI=1S/C16H18N2O2.ClH/c1-2-20-16(19)13-8-6-12(7-9-13)15-5-3-4-14-10-17-11-18(14)15;/h6-11,15H,2-5H2,1H3;1H
